US08304419B2
Step B: Methyl 3-chloro-5-(chlorocarbonyl)-1H-pyrrole-2-carboxylate
Oxalyl chloride (0.430 mL, 4.91 mmol) was added to a solution of 4-chloro-5-[(methyloxy)carbonyl]-1H-pyrrole-2-carboxylic acid (0.500 g, 2.45 mmol) in DCM (50 mL). DMF (9.51 μl, 0.123 mmol) was added to the reaction mixture and the resulting suspension was stirred overnight. The solvent was evaporated to afford the title compound as a crude product (0.804 g) which was used with no further purification. 1H NMR (400 MHz, CDCl3) δ ppm 11.02 (s, 1H), 7.11 (d, 1H), 3.97 (s, 3H).

reactant | Oxalyl chloride | 4.91 mmol, 0.430 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-chloro-5-[(methyloxy)carbonyl]-1H-pyrrole-2-carboxylic acid | 2.45 mmol, 0.500 g | ClC=1C=C(NC1C(=O)OC)C(=O)O | C7H6ClNO4
reactant | DMF | 0.123 mmol, 9.51 μl | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-chloro-5-(chlorocarbonyl)-1H-pyrrole-2-carboxylate | ClC1=C(NC(=C1)C(=O)Cl)C(=O)OC | C7H5Cl2NO3
